US04508658
α-Cyano-β-phenyl-acrylic acid pentafluorophenyl ester
9.0 g. (0.05 moles) of α-cyano-β-phenyl-acrylic acid are suspended in 200 ml. of dichloromethane and 9.2 g. (0.05 moles) of pentafluorophenol and 10.02 g. (0.05 moles) of dicyclohexylcarbodiimide in 100 ml. dichloromethane are added. The mixture is heated for 5 hours under reflux, cooled, the precipitated dicyclohexyl urea is filtered off. The solution is washed with 20 ml. of 2n hydrochloric acid and three times with water, dried over magnesium sulfate, evaporated and the residual oily substance is recrystallized from petrolether.

reactant | α-cyano-β-phenyl-acrylic acid | 0.05 moles | C(#N)C(C(=O)O)=CC1=CC=CC=C1 | C10H7NO2
reactant | pentafluorophenol | 0.05 moles | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 0.05 moles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-Cyano-β-phenyl-acrylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(C(=CC1=CC=CC=C1)C#N)=O)F)F)F)F | C16H6F5NO2
